US07074828B2
Preparation of Cyclopropanecarboxylic acid, 2-[2-(2-methoxy-ethoxy)-ethoxy]-ethyl ester
Triethylene glycol monomethyl ether (1.1 eq, 5.26 mmol, 0.84 ml) and triethylamine (1.1 eq, 5.26 mmol, 0.73 ml) were taken in a 10 ml round bottom flask and dichloromethane (3 ml) was added. This mixture was cooled to 0° C. and then cyclopropanecarbonyl chloride (4.78 mmol, 0.5 g, 0.43 ml) was added in a dropwise fashion maintaining the temperature at 0° C. with constant stirring.

reactant | Triethylene glycol monomethyl ether | 5.26 mmol, 0.84 ml, 1.1 eq | COCCOCCOCCO | C7H16O4
reactant | triethylamine | 5.26 mmol, 0.73 ml, 1.1 eq | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 4.78 mmol, 0.43 ml, 0.5 g | C1(CC1)C(=O)Cl | C4H5ClO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | Cyclopropanecarboxylic acid, 2-[2-(2-methoxy-ethoxy)-ethoxy]-ethyl ester | C1(CC1)C(=O)OCCOCCOCCOC | C11H20O5
